US05223505
A mixture of 6-amino-4-(1-indolinyl)-2-methylpyrimidine (4.5 g, 20 mM), 30% w/w palladium on charcoal (0.45 g) and diphenyl ether (15 ml) was heated under reflux in an argon atmosphere for 1 hour. The solid was removed by filtration and the filtrate was diluted with hexane (100 ml) to give 6-amino-4-(1-indolyl)-2-methylpyrimidine (4.25 g, 95%) as a pale yellow solid, m.p. 176°-177° C.; microanalysis, found: C,69.5; H,5.5; N,24.4%; C13H12N4 requires C,69.64; H,5.36; N,25.0%.

reactant | 6-amino-4-(1-indolinyl)-2-methylpyrimidine | 20 mM, 4.5 g | NC1=CC(=NC(=N1)C)N1CCC2=CC=CC=C12 | C13H14N4
reactant | diphenyl ether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | palladium on charcoal | 0.45 g | [Pd] | Pd
product | 6-amino-4-(1-indolyl)-2-methylpyrimidine | 4.25 g, 95% | NC1=CC(=NC(=N1)C)N1C=CC2=CC=CC=C12 | C13H12N4
